US09447114B2
A solution of 5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (30 mg, 0.047 mmol) in concentrated HCl (1 mL) and MeOH (5 mL) was stirred at RT for 1 h. The reaction was concentrated to a residue which was purified by Prep HPLC to give 5-((4-chlorophenyl) (hydroxy)methyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenoxy) thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (6 mg, 23.0% yield) as a white solid. 1H NMR (DMSO-d6) δ: 7.47 (t, J=8.3 Hz, 1H), 7.34 (d, J=8.5 Hz, 2H), 7.26 (d, J=8.5 Hz, 2H), 7.10 (dd, J=28.1, 8.2 Hz, 2H), 6.98 (s, 1H), 6.33 (d, J=7.7 Hz, 1H), 6.16 (d, J=7.6 Hz, 1H), 4.51 (t, J=5.2 Hz, 1H), 3.95 (s, 2H), 3.45 (d, J=5.4 Hz, 2H), 3.41 (s, 3H), 1.71 (s, 2H). LCMS: [M+-OH] 539 and TR=3.084 min.

reactant | 5-((4-chlorophenyl)(hydroxy)methyl)-1-methyl-3-(3-((tetrahydro-2H-pyran-2-yl)oxy)propyl)-6-(3-(trifluoromethoxy)phenoxy)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.047 mmol, 30 mg | ClC1=CC=C(C=C1)C(C1=C(SC=2N(C(N(C(C21)=O)CCCOC2OCCCC2)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)O | C29H28ClF3N2O7S
solvent | HCl | 1 mL | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 5-((4-chlorophenyl) (hydroxy)methyl)-3-(3-hydroxypropyl)-1-methyl-6-(3-(trifluoromethoxy)phenoxy) thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 6 mg, 23.0% yield | ClC1=CC=C(C=C1)C(C1=C(SC=2N(C(N(C(C21)=O)CCCO)=O)C)OC2=CC(=CC=C2)OC(F)(F)F)O | C24H20ClF3N2O6S
